### ISSUE TITLE
`simp` runs out of heartbeats when unfolding a definition

### ISSUE THREAD

**Issue by TwoFX** [leanprover/lean4#6065]
### Prerequisites

Please put an X between the brackets as you perform the following steps:

* [x] Check that your issue is not already filed:
      https://github.com/leanprover/lean4/issues
* [x] Reduce the issue to a minimal, self-contained, reproducible test case.
      Avoid dependencies to Mathlib or Batteries.
* [x] Test your test case against the latest nightly release, for example on
      https://live.lean-lang.org/#project=lean-nightly
      (You can also use the settings there to switch to “Lean nightly”)

### Description

```lean
def foo (r : Nat) : Nat :=
  match r with
  | Nat.zero => 0
  | l@(Nat.succ _) =>
    match l with
    | 0 => 0
    | Nat.succ ll =>
      match ll with
      | Nat.succ _ => 0
      | _ => 0

/--
error: tactic 'simp' failed, nested error:
(deterministic) timeout at `whnf`, maximum number of heartbeats (200000) has been reached
Use `set_option maxHeartbeats <num>` to set the limit.
Additional diagnostic information may be available using the `set_option diagnostics true` command.
-/
#guard_msgs in
example {r : Nat} : foo r = 0 := by
  simp only [foo.eq_def]
```

### Context

Found while working on the ordered tree.

**Expected behavior:** No error

**Actual behavior:** See above

### Versions

`4.15.0-nightly-2024-11-13` on live.lean-lang.org

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.

**Comment by nomeata** [comment]
The issue isn’t the unfolding, it’s what happens afterwards:

```lean
def foo (r : Nat) : Nat :=
  match r with
  | Nat.zero => 0
  | l@(Nat.succ _) =>
    match l with
    | 0 => 0
    | Nat.succ ll =>
      match ll with
      | Nat.succ _ => 0
      | _ => 0

/--
error: tactic 'simp' failed, nested error:
(deterministic) timeout at `whnf`, maximum number of heartbeats (200000) has been reached
Use `set_option maxHeartbeats <num>` to set the limit.
Additional diagnostic information may be available using the `set_option diagnostics true` command.
---
info: r : Nat
⊢ (match r with
    | Nat.zero => 0
    | l@h:n.succ =>
      match l, h with
      | 0, h => 0
      | ll.succ, h =>
        match ll, h with
        | n_1.succ, h => 0
        | x, h => 0) =
    0
-/
#guard_msgs in
example {r : Nat} : foo r = 0 := by
  unfold foo
  trace_state
  simp only []
  skip
```

It's interesting to see that there are some extra hypotheses inserted and matched on, maybe that's causing issues?
